US05162347
4-(4-Methylsulfonylaminophenylsulfinyl)-1-[2-(3-pyridyl)ethyl]piperidine
A mixture of 0.50 g (1.28 mmol) of 4-(4-methylsulfonylaminophenylthio)-1-[2-(3-pyridyl)ethyl]piperidine, 0.33 g (1.53 mmol) of sodium periodate, 5 ml of 1N hydrochloric acid and 5 ml of methanol was stirred at room temperature for 1 h. About 5 ml of a 1N sodium hydroxide solution was added thereto to adjust the pH to about 7. After extraction with chloroform, the organic layer was concentrated and the residue was purified by silica gel column chromatography (CHCl3 :CH3OH:NH4OH=95:5:0.5). The fraction containing the intended compound was concentrated to give a solid residue, which was recrystallized from ethyl acetate to give a 0.34 g (yield: 64%) of the compound.

reactant | 4-(4-methylsulfonylaminophenylthio)-1-[2-(3-pyridyl)ethyl]piperidine | 1.28 mmol, 0.50 g | CS(=O)(=O)NC1=CC=C(C=C1)SC1CCN(CC1)CCC=1C=NC=CC1 | C19H25N3O2S2
reactant | sodium periodate | 1.53 mmol, 0.33 g | I(=O)(=O)(=O)[O-].[Na+]
reactant | hydrochloric acid | 1N, 5 ml | Cl | ClH
reactant | sodium hydroxide | 1N | [OH-].[Na+]
solvent | methanol | 5 ml | CO | CH4O
product | 4-(4-Methylsulfonylaminophenylsulfinyl)-1-[2-(3-pyridyl)ethyl]piperidine | 0.34 g, yield: 64% | CS(=O)(=O)NC1=CC=C(C=C1)S(=O)C1CCN(CC1)CCC=1C=NC=CC1 | C19H25N3O3S2
